US07087644B1
Methyl 4-{[{2-[(4-bromobenzyl)oxy]phenethyl}(5-ethoxy-5-oxopentyl)amino]methyl}benzoate (by process D)
5.00 g (11.0 mmol) of methyl 4-[({2-[(4-bromobenzyl)oxy]phenethyl}amino)-methyl]benzoate from Ex. VIII, 2.30 g (11.0 mmol) of ethyl 5-bromovalerate and 1.109 g (13.21 mmol) of sodium bicarbonate in 30 ml of acetonitrile are heated at reflux for 18 hours. The reaction mixture is admixed with water and extracted with methylene chloride. The organic phase is washed with saturated sodium chloride solution and dried over magnesium sulphate and the solvent is distilled off under reduced pressure. The residue is purified by chromatography over silica gel using the mobile phase methylene chloride/methanol 100/1.

reactant | methyl 4-[({2-[(4-bromobenzyl)oxy]phenethyl}amino)-methyl]benzoate | 11.0 mmol, 5.00 g | BrC1=CC=C(COC2=C(CCNCC3=CC=C(C(=O)OC)C=C3)C=CC=C2)C=C1 | C24H24BrNO3
reactant | ethyl 5-bromovalerate | 11.0 mmol, 2.30 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | sodium bicarbonate | 13.21 mmol, 1.109 g | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | Methyl 4-{[{2-[(4-bromobenzyl)oxy]phenethyl}(5-ethoxy-5-oxopentyl)amino]methyl}benzoate | BrC1=CC=C(COC2=C(CCN(CCCCC(=O)OCC)CC3=CC=C(C(=O)OC)C=C3)C=CC=C2)C=C1 | C31H36BrNO5
